US04804649
Copper acetate.
Oxalic acid (320 grams) and potassium hydroxide (270 grams) was dissolved in 600 milliliters of water. The resulting solution was added all at once to the copper, barium, yttrium solution previously formed with stirring. The pH was adjusted to 11.5 by adding a few millimeters of saturated potassium hydroxide solution. The solution was filtered, and the precipitate was washed and dried at 120° C. for 16 hours.

reactant | Oxalic acid | 320 grams | C(C(=O)O)(=O)O | C2H2O4
reactant | potassium hydroxide | 270 grams | [OH-].[K+]
reactant | copper | [Cu] | Cu
reactant | barium | [Ba] | Ba
solvent | water | 600 milliliters | O | H2O
catalyst | yttrium | [Y] | Y
product | Copper acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-] | InChI=1S/2C2H4O2.Cu/c2*1-2(3)4;/h2*1H3,(H,3,4);/q;;+2/p-2
